Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:9][C:10]([H:11])([H:12])[H:13].[H:8]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13],-4.210765160219999
[O:1]=[C:2]([H:3])[C:4]([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:3].[O:1]=[C:2]=[C:4]([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],2.57183188556
[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[H:10])[O:11][H:12]>>[H:1][O:2][C:3]([C:4]#[C:5][C:7]([H:8])([H:9])[H:10])[O:11][H:12].[H:6],3.94697671199
[C:3](\[H:4])(=[C:5]\[O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2]>>[H:1][O:2][C@:3]([H:4])([C:5][O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-3.5159928965800007
[C:1].[C:2](\[O:3][C:4]([H:5])([H:6])[H:7])=[C:8](\[H:9])[O:10][H:11]>>[C:1]=[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])[O:10][H:11],-5.19877625896
[H:1][C:2]=[C:12]([H:13])[H:14].[H:3][C:4]([H:5])=[C:10]([C:8](=[C:6][H:7])[H:9])[H:11]>>[H:1][C:2]([H:3])=[C:4]([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-5.27156033054
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:8]([H:9])=[C:10][H:11]>>[C:8]([H:9])#[C:10][H:11].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7],1.6405637432299998
[H:1][C:2].[O:3]=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])[O:10][H:11]>>[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])[O:10][H:11],-2.20839122925
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14].[H:6],1.8379851949
[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2],7.03772186633
[O:1]=[C:2]=[C:3][C:4]([O:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[H:10].[O:1]=[C:2]=[C:3][C:4]([O:5][H:6])=[C:7]([H:8])[H:9],3.97508670281
[C:1]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[H:10].[C:2]>>[C:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[H:10],-3.22666429653
[C:1]#[C:2][C@:3]([H:4])([C:5](=[O:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][C:3]([C:5](=[O:6])[H:7])[C:8]([H:9])([H:10])[H:11].[H:4],2.35806194956
[C:1].[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]#[C:10][H:11]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]#[C:10][H:11],-3.82096870162
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[H:12].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[O:13][H:14],4.205987842230002
[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])=[C:11][H:12]>>[H:10].[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])([H:7])[H:8])[C:9]#[C:11][H:12],1.90362145147
[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[O:1][O:2][C:3]([H:4])[H:5]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-3.51169995014
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[H:10]>>[C:4]([H:5])[H:6].[H:1][O:2][C:3][C:7]([H:8])([H:9])[H:10],7.27048533
[C:1]#[C:2][C:3]([H:4])[O:5][C:6]([H:7])[H:8].[H:9]>>[C:1]#[C:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[H:9],-4.38269447023
[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([C:9]([H:10])[H:11])=[C:12]([H:13])[H:14].[O:1]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([C:9]([H:10])[H:11])=[C:12]([H:13])[H:14],-4.14289948931
[O:1]=[C:2](/[C:3]=[C:4](\[H:5])[O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[H:5].[O:1]=[C:2]([C:3]#[C:4][O:6][H:7])[C:8]([H:9])([H:10])[H:11],2.27776905987
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][O:12][H:13]>>[C:1].[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][O:12][H:13],3.88687519981
[H:4].[O:1]1[C:2]([C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12])[C:3]1>>[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12],-3.6105744665
[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11]>>[C:6]#[C:7][C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3]([H:4])[H:5],5.27189330034
[H:12].[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11]>>[H:1][C:2]=[C:3]([O:4][H:5])/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12],-1.88965667654
[H:13].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])/[C:10]=[C:11](\[H:12])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-1.7375136291099995
[H:14].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])[H:13]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-3.9894705169
[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:9]([H:10])[H:11].[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])=[C:7][H:8],6.617936390090001
[H:1][O:2][C@:3]([H:4])([C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][O:2][C@:3]([H:4])([C:5](=[C:6]([H:7])[H:8])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:9],1.85718812981
